Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
adhesive / nystatin
 
Attending: ___.
 
Chief Complaint:
Rectal bleeding
 
Major Surgical or Invasive Procedure:
Colonoscopy
 
History of Present Illness:
___ with Ehlers-Danlos s/p colectomy with ileoanal anastomosis 
c/b bleeding ulcer s/p intestinal perforation (@___) after 
colonoscopy. Subsequently had loop ileostomy which was taken 
down in ___ at ___. Has been doing well, in her USOH until 7 
days ago when she developed loose bright red bowel movements. On 
___, her BM frequency increased to ~8 per day and she 
started noting the passage of small clots. No melena mixed in. 
No hematemesis. She starting feeling lightheaded with positional 
changes on ___ and so presented to ED ___. She had some vague 
abdominal discomfort over her old ileostomy site, but it has 
waxed and waned, not currently present. Not on any ASA/NSAIDS or 
other blood thinners. No recent history of constipation. No 
recent sick contacts. Denies fevers, chills, N/V. No bruising or 
skin rashes. Last BM ~1 hour ago. Passing gas. She does note 
that this presentation is "eerily similar" to her prior GIB that 
developed 3 months after surgery.

Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting. No dysuria. 
Denies arthralgias or myalgias. Ten point review of systems is 
otherwise negative.  
 
Past Medical History:
___-DANLOS SYNDROME                                          
ENDOMETRIOSIS
REANASTOMOSIS/ LOOP ILEOSTOMY TAKEDOWN ___                  
                                  
LOOP ILEOSTOMY AND REPAIR OF BOWEL PERFORATION        ___
COLECTOMY WITH ILEALANAL ANASTOMOSIS                  ___   
LAPRASOCOPY FOR ENDOMETRIOSIS                         ___   
LEFT HIP SUBLEXATION REPAIR                           ___      
ARTHROSCOPY OF LEFT HIP                               ___      
HARDWARE IN HIP REMOVED AND SCIATIC NERVE DEBRIDEMENT ___      
right hip                                                       
ARTHROSCOPIC LABIAL REPAIR LEFT HIP                   ___      
HIP DISLOCATION REPAIR                                ___      
right and left 3 months apart                                   
TRIGGER FINGER                                        ___      
UMBILICAL HERNIA                                      ___    
 
Social History:
___
Family History:
Suspects that her grandmother may have had EDS. 
 
Physical Exam:
Vitals: 
Gen: Appears comfortable
CV: RRR no m/g/r
Pulm: CTAB no w/r/r
Abd: soft, NT/ND
Extrem: warm, no edema
GU: no foley
Skin: no rash
Neuro: A+Ox3, speech fluent
 
Pertinent Results:
___ 11:50AM BLOOD WBC-6.0 RBC-4.18 Hgb-12.8 Hct-39.2 MCV-94 
MCH-30.6 MCHC-32.7 RDW-13.2 RDWSD-45.6 Plt ___
___ 11:50AM BLOOD Neuts-54.0 ___ Monos-6.3 Eos-1.8 
Baso-0.5 Im ___ AbsNeut-3.25 AbsLymp-2.24 AbsMono-0.38 
AbsEos-0.11 AbsBaso-0.03
___ 11:50AM BLOOD Glucose-91 UreaN-11 Creat-0.6 Na-141 
K-4.1 Cl-105 HCO3-27 AnGap-13
___ 11:50AM BLOOD ALT-16 AST-22 AlkPhos-72 TotBili-0.2
___ 11:50AM BLOOD Albumin-4.3
___ 11:54AM BLOOD Lactate-1.1

 
___ URINE URINE CULTURE-PENDING EMERGENCY WARD 

Imaging: ___ Colonoscopy
 Other The ileocolonic anastomosis with overlying ulceration and
friability was encountered at 20cm with two blind ends, likely
representing a a side-to-side anastomosis. The site of the
previous diverting ileostomy was encountered at 35cm and also
appeared ulcerated and friable. These likely represent the 
source
of patient's recent bleeding. Both anastomoses were widely 
patent
and traversed without resistance. A few scattered aphthous 
ulcers
were noted in the distal ileum.   

Impression: The ileocolonic anastomosis with overlying 
ulceration
and friability was encountered at 20cm with two blind ends,
likely representing a a side-to-side anastomosis. The site of 
the
previous diverting ileostomy was encountered at 35cm and also
appeared ulcerated and friable. These likely represent the 
source
of patient's recent bleeding. Both anastomoses were widely 
patent
and traversed without resistance. A few scattered aphthous 
ulcers
were noted in the distal ileum.
Otherwise normal colonoscopy to distal ileum 
Recommendations: Additional recommendations per inpatient GI 
consult team in discussion with Dr. ___. 

 
___ 12:45 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

   FECAL CULTURE (Pending): 

   CAMPYLOBACTER CULTURE (Pending): 

 
Brief Hospital Course:
___ F with history of Ehlers Danlos s/p colectomy with 
ileocolonic anastomosis presented with gastrointestinal 
bleeding.

# GI Bleeding: Likely from anastomotic ulcers seen on 
colonoscopy.
- hematocrit was stable
- Cdiff neg
- d/c on augmentin, flagyl, Imodium and cholestyramine per GI 
recs.

# Endometriosis: Continued ___. 

# Insomnia: Continued amitriptyline.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q6H:PRN pain 
2. Multivitamins 1 TAB PO DAILY 
3. Amitriptyline 20 mg PO QHS 
4. ___ (norethindrone (contraceptive)) 0.35 mg oral DAILY 

 
Discharge Medications:
1. Acetaminophen 500 mg PO Q6H:PRN pain 
2. Amitriptyline 20 mg PO QHS 
3. ___ (norethindrone (contraceptive)) 0.35 mg oral DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Amoxicillin-Clavulanic Acid ___ mg PO Q8H 
RX *amoxicillin-pot clavulanate 500 mg-125 mg 1 tablet(s) by 
mouth every eight (8) hours Disp #*42 Tablet Refills:*0
6. MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth q8 Disp #*42 
Tablet Refills:*0
7. Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth q8hprn Disp #*30 
Tablet Refills:*0
8. LOPERamide 2 mg PO QID:PRN diarrhea 
RX *loperamide 2 mg 1 tablet(s) by mouth qid prn Disp #*30 
Tablet Refills:*0
9. Cholestyramine 4 gm PO BID 
RX *cholestyramine (with sugar) 4 gram 1 powder(s) by mouth 
twice a day Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Anastomotic ulcer
Gastrointestinal bleeding
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with bleeding from your gastrointestinal 
tract. This was likely from an ulcer near your anastomosis. You 
had a colonoscopy that revealed this. You were started on 
Augmentin and Flagyl which were recommended by Dr. ___. You 
will take this for 2 weeks.

You can take Imodium and cholestyramine for your diarrhea. 
Please do not take them at the same time. 

You can also take Zofran for nausea and Imodium for diarrhea.
 
Followup Instructions:
___